US06599917B1
b) (3R)-3-[2-Benzyl-6-[(3R,4S)-3-(fluoromethoxy)-4-methoxypyrrolidine-1-yl]-3-pyridyl]ethynyl-3-quinuclidinol
A mixture of 43.9 mg of 2-benzyl-6-[(3R,4S)-3-(fluoromethoxy)-4-methoxypyrrolidine-1-yl]-3-iodopyridine, 16.5 mg of (3R)-3-ethynyl-3-quinuclidinol, 11.5 mg of tetrakis(triphenylphosphine)palladium(0), 0.9 mg of cuprous iodide, 42 μl of triethylamine and 3.0 ml of N,N-dimethylformamide was heated under stirring for 1 hours at 75° C. in a nitrogen atmosphere. The reaction solution was poured into an aqueous dilute ammonia, and then the mixture was extracted with ethyl acetate. The organic phase was washed with brine and the solvent was removed. The residue was subjected to NH-silica gel (Fuji Silicia) column chromatography and eluted with hexane/ethyl acetate (1:1) and then with ethyl acetate/methanol (15:1), to give 33 mg of the target compound.

reactant | 2-benzyl-6-[(3R,4S)-3-(fluoromethoxy)-4-methoxypyrrolidine-1-yl]-3-iodopyridine | 43.9 mg | C(C1=CC=CC=C1)C1=NC(=CC=C1I)N1C[C@H]([C@H](C1)OC)OCF | C18H20FIN2O2
reactant | (3R)-3-ethynyl-3-quinuclidinol | 16.5 mg | C(#C)[C@]1(CN2CCC1CC2)O | C9H13NO
reactant | triethylamine | 42 μl | C(C)N(CC)CC | C6H15N
reactant | ammonia | N | H3N
catalyst | tetrakis(triphenylphosphine)palladium(0) | 11.5 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | N,N-dimethylformamide | 3.0 ml | CN(C=O)C | C3H7NO
product | (3R)-3-[2-Benzyl-6-[(3R,4S)-3-(fluoromethoxy)-4-methoxypyrrolidine-1-yl]-3-pyridyl]ethynyl-3-quinuclidinol | 33 mg | C(C1=CC=CC=C1)C1=NC(=CC=C1C#C[C@]1(CN2CCC1CC2)O)N2C[C@H]([C@H](C2)OC)OCF | C27H32FN3O3
